US08084448B2
B. N-(3-Benzyloxy-4-nitrobenzyl)-N-methylbenzenesulfonamide
To a solution of (3-benzyloxy-4-nitrobenzyl)methylamine (1.00 g, 3.672 mmol) and triethylamine (0.56 mL, 4.04 mmol) in CH2Cl2 (20 mL) is added dropwise benzenesulfonyl chloride (0.515 mL, 4.04 mmol) and the reaction is heated at reflux for 1 h. After cooling to RT, the reaction is diluted with CH2Cl2 (75 mL). The solution is washed with 1N HCl, saturated sodium bicarbonate, dried over Na2SO4, filtered, and concentrated under vacuum to afford an orange oil. The oil is triturated with ether to afford the title compound: (M+1)+=413.

reactant | (3-benzyloxy-4-nitrobenzyl)methylamine | 3.672 mmol, 1.00 g | C(C1=CC=CC=C1)OC=1C=C(CCN)C=CC1[N+](=O)[O-] | C15H16N2O3
reactant | triethylamine | 4.04 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 4.04 mmol, 0.515 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Benzyloxy-4-nitrobenzyl)-N-methylbenzenesulfonamide | C(C1=CC=CC=C1)OC=1C=C(CN(S(=O)(=O)C2=CC=CC=C2)C)C=CC1[N+](=O)[O-] | C21H20N2O5S
